US05032598
To an ice cold solution of 2-(1-methyl-4-piperidyl)-1-oxo-2-indanecarboxamide hydrochloride (5.5 g, 0.0178 mol) in 27 mL of concentrated sulfuric acid was added dropwise over 5 minutes 2.20 g of 90% nitric acid dissolved in 6.8 mL of cold concentrated sulfuric acid. After the addition was complete, the solution was stirred at 0° C. for two hours and then was poured onto ice. The solution was made basic by the addition of solid sodium bicarbonate, and the mixture was extracted with three 100 mL portions of chloroform. The combined chloroform extracts were washed with water, dried over magnesium sulfate, filtered, and the solvent was removed under reduced pressure. The residue was recrystallized from absolute ethanol to give 4.42 g (78% yield)) of 6-nitro-2-(1-methyl-4-piperidyl)-1-oxo-2-indane carboxamide, mp 189°-190° C.

reactant | 2-(1-methyl-4-piperidyl)-1-oxo-2-indanecarboxamide hydrochloride | 0.0178 mol, 5.5 g | Cl.CN1CCC(CC1)C1(C(C2=CC=CC=C2C1)=O)C(=O)N
reactant | nitric acid | 2.20 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 27 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 6.8 mL | S(O)(O)(=O)=O | H2O4S
product | 6-nitro-2-(1-methyl-4-piperidyl)-1-oxo-2-indane carboxamide | 78% yield | [N+](=O)([O-])C1=CC=C2CC(C(C2=C1)=O)(C(=O)N)C1CCN(CC1)C | C16H19N3O4
